US05216124
N-[N-[(1,1-dimethylethoxy)carbonyl]-N-methyl-L-phenylalanyl]-3-mercapto-D-valine, methyl ester
The title compound was synthesized by coupling Nα -Boc-(N-methyl) phenylalanine (19.0 g, 68.0 mmol) to 13.8 g (69.0 mmol) of D-penicillamine methylester hydrochloride using the procedure described above in Example 19. The title compound was obtained as a white solid (29.6 g, 99.3%).

reactant | Nα -Boc-(N-methyl) phenylalanine | 68.0 mmol, 19.0 g | C(=O)(OC(C)(C)C)N([C@@H](CC1=CC=CC=C1)C(=O)O)C | C15H21NO4
reactant | D-penicillamine methylester hydrochloride | 69.0 mmol, 13.8 g | Cl.COC([C@H](N)C(C)(C)S)=O
product | N-[N-[(1,1-dimethylethoxy)carbonyl]-N-methyl-L-phenylalanyl]-3-mercapto-D-valine, methyl ester | CC(C)(OC(=O)N([C@@H](CC1=CC=CC=C1)C(=O)N[C@H](C(C)(C)S)C(=O)OC)C)C | C21H32N2O5S
